US06437146B1
To a solution of ethyl (±)-4-{2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzoylamino}ethyl}phenoxyacetate (115 mg, 0.18 mmol) in MeOH-1,4-dioxane (1:1, 4 ml) was added 1N sodium hydroxide solution (0.18 ml, 0.18 mmol) at 5° C. and the mixture was stirred at room temperature for 2 hours. The reaction mixture was evaporated and Et2O was added thereto. The resulting solid was collected by filtration to give sodium (±)-4-{2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzoylamino}ethyl}phenoxyacetate (105.0 mg, 92%).

reactant | ethyl (±)-4-{2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzoylamino}ethyl}phenoxyacetate | 0.18 mmol, 115 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)NCCC2=CC=C(OCC(=O)OCC)C=C2)C=CC1 | C41H40N2O5
reactant | sodium hydroxide | 0.18 mmol, 1N, 0.18 ml | [OH-].[Na+]
solvent | MeOH 1,4-dioxane | 4 ml | CO.O1CCOCC1
product | sodium (±)-4-{2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzoylamino}ethyl}phenoxyacetate | 105.0 mg, 92% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)NCCC2=CC=C(OCC(=O)[O-])C=C2)C=CC1.[Na+] | InChI=1S/C39H36N2O5.Na/c42-35(43)26-45-33-20-18-27(19-21-33)22-23-40-38(44)32-16-9-10-28(25-32)24-31-15-7-8-17-34(31)39-41-36(29-11-3-1-4-12-29)37(46-39)30-13-5-2-6-14-30;/h1-6,9-14,16-21,25,31H,7-8,15,22-24,26H2,(H,40,44)(H,42,43);/q;+1/p-1
